US07470723B2
To a stirred solution of benzo[1,3]dioxol-5-yl-(4-methoxy-phenyl) -methanol (2.54 g crude, 9.1 mmol) in CH2Cl2 (20 mL) at room temperature was added activated MnO2 powder (4.0 g, 45.5 mmol) and kept adding 2˜3 equivalents of MnO2 every 3˜5 h until HPLC showed disappearance of the starting material. The black suspension was filtered through a Celite pad, concentrated in vacuo to give benzo[1,3]dioxol-5-yl-(4-methoxy-phenyl)-methanone as a yellow solid (2.47 g, 106% crude yield, HPLC purity 93%): 1H NMR (CDCl3) δ 3.89 (s, 3H, —OCH3), 6.06 (s, 2H, CH2), 6.76-6.98 (m, 3H, Ar), 7.26-7.39 (m, 2H, Ar), 7.75-7.80 (m, 2H, Ar). The product was used in the next step without further purification.

reactant | benzo[1,3]dioxol-5-yl-(4-methoxy-phenyl) -methanol | 9.1 mmol, 2.54 g | O1COC2=C1C=CC(=C2)C(O)C2=CC=C(C=C2)OC | C15H14O4
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 45.5 mmol, 4.0 g | O=[Mn]=O
catalyst | MnO2 | 2˜3 equivalents | O=[Mn]=O
product | benzo[1,3]dioxol-5-yl-(4-methoxy-phenyl)-methanone | O1COC2=C1C=CC(=C2)C(=O)C2=CC=C(C=C2)OC | C15H12O4
